US04559339
Preparation of 7-[(1-[2(R)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione hydrate, Isomer 1.
7-[(2,3-Dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione (250 mg, 0.612 mmole), 2(R)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoic acid (142 mg, 0.734 mmole), 1-ethyl-3-dimethylaminopropylcarbodiimide hydrochloride (141 mg, 0.734 mmole), 1-hydroxybenzotriazole (99 mg, 0.734 mmole), and triethylamine (102 μl, 0.734 mmole) were mixed with 12 ml of dry dimethylformamide and the resulting mixture was protected from moisture and stirred at room temperature for 48 hours. The mixture was filtered, rotoevaporated and the residue partitioned between ethyl acetate and water. The organic phase was washed with saturated sodium bicarbonate solution, 10% citric acid and brine, then dried (MgSO4) and concentrated. The crude product thus obtained as a mixture of diastereomers was purified by preparative thick layer chromatography (silica gel, 97:3 hexane-ethyl acetate v/v) to afford isomer 1. HPLC shows isomer 1 to be 78% diastereomerically pure.

reactant | 7-[(2,3-Dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione | 0.612 mmole, 250 mg | N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O | C25H20N4O2
reactant | 2(R)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoic acid | 0.734 mmole, 142 mg | CC(C)(OC(=O)N[C@@H](C(=O)O)CC(C)C)C | C11H21NO4
reactant | 1-ethyl-3-dimethylaminopropylcarbodiimide hydrochloride | 0.734 mmole, 141 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.734 mmole, 99 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.734 mmole, 102 μl | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 7-[(1-[2(R)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione hydrate | O.CC(C)(OC(=O)N[C@@H](C(=O)N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O)CC(C)C)C | InChI=1S/C36H39N5O5.H2O/c1-21(2)18-28(39-35(45)46-36(3,4)5)34(44)40-20-22(23-12-7-10-16-29(23)40)19-27-31-37-26-15-9-6-13-24(26)33(43)41(31)30-17-11-8-14-25(30)32(42)38-27;/h6-17,21-22,27-28H,18-20H2,1-5H3,(H,38,42)(H,39,45);1H2/t22?,27?,28-;/m1./s1
